data/pmechdb/original/mc_train_fold0/raw/train.txt
C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C1=CC(=CC=C1OCC[O-:10])OCCBr.C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C(Br)(Br)Br>>C1=CC=C(C=C1)[P:20](C2=CC=CC=C2)(C3=CC=CC=C3)([O:10]CCOC4=CC=C(C=C4)OCCBr)Br.C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C(Br)(Br)Br 10=20,
[H:20][NH+:21](CC1=CC=CC=C1)C(CCC(=O)C2=CC=CC=C2)(C3=CC=CC=C3)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.C1=CC=C(C=C1)C[NH:21]C(CCC(=O)C2=CC=CC=C2)(C3=CC=CC=C3)O 10=20;20,21=21
[H:20][NH:21]C(=O)C.[OH-:10]>>[H:20][OH:10].CC(=O)[NH-:21] 10=20;20,21=21
[H:20][O:21][P+:22](C)(C)C.[Cl-:10]>>[H:20][Cl:10].C[P:22](=[O:21])(C)C 10=20;20,21=21,22
CO[C:20](=[NH2+:21])OC.[OH2:10]>>CO[C:20]([NH2:21])([OH2+:10])OC 10=20;20,21=21
[H:20][O+:21]=S(C)C.[OH2:10]>>[H:20][OH2+:10].CS(=[O:21])C 10=20;20,21=21
CCO[C:11](=[CH:10]Cl)[O-:12].C[C:20](=[O:21])C1=CC=CC=C1>>CCO[C:11](=[O:12])[CH:10]([C:20](C)(C1=CC=CC=C1)[O-:21])Cl 10,11=10,20;20,21=21;12=11
C[C:20]1([CH2:10][P-:11](=O)([O:21]1)(OC)OC)C>>C[C:20](=[CH2:10])C.CO[P:11](=O)([O-:21])OC 10,11=10,20;20,21=21
C1COCC[NH:10]1.C1=CC(=CC=C1[CH2:20][Cl:21])C#N>>C1COCC[NH+:10]1[CH2:20]C2=CC=C(C=C2)C#N.[Cl-:21] 10=20;20,21=21
[H:20][CH:21]1CN(CC[C:22]1=[N+:23]2CCCC(C2)O)C3=CC(=C(C=C3)[N+](=O)[O-])OC.CC[N:10](CC)CC.CC(=O)[O-].O>>[H:20][N+:10](CC)(CC)CC.COC1=C(C=CC(=C1)N2CC[C:22](=[CH:21]C2)[N:23]3CCCC(C3)O)[N+](=O)[O-].CC(=O)[O-].O 10=20;22,23=23;20,21=21,22
C1CCC[C:20](CCC1)([NH:10]CC2=CC=CC=C2)[OH2+:21].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C1CCC[C:20](=[NH+:10]CC2=CC=CC=C2)CCC1.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CC1[C:20]([Br+:21]1)(C)CCCC[OH:10]>>CC([C:20]1(CCCC[OH+:10]1)C)[Br:21] 10=20;20,21=21
C1C(=O)O[Cu-]2[N:10]1CC(=O)O2.[CH2:20](P(=O)(O[Na])O[Na])[Cl:21]>>C1C(=O)O[Cu-]2[N+:10]1(CC(=O)O2)[CH2:20]P(=O)(O[Na])O[Na].[Cl-:21] 10=20;20,21=21
[H:20][O+:21](CCCCCCCC)C(C1=CC(=C(C=C1)O)O)(O)O.CCCCCCCC[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1CCOC1>>[H:20][OH+:10]CCCCCCCC.CCCCCCCC[O:21]C(C1=CC(=C(C=C1)O)O)(O)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1CCOC1 10=20;20,21=21
CCO[C:20](C)([O-:10])[O:21]C(=O)C=C>>CCO[C:20](=[O:10])C.C=CC(=O)[O-:21] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH:20]2CC(CCC2OC(=[O:10])C)C3CCCCC3>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1=[O+:10][CH:20]2CC(CCC2O1)C3CCCCC3 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O-].COC(=O)[NH:10]CCCC([C:20](=[OH+:21])C1=CC=CC=C1)O>>CC1=CC=C(C=C1)S(=O)(=O)[O-].COC(=O)[NH+:10]1CCCC([C:20]1(C2=CC=CC=C2)[OH:21])O 10=20;20,21=21
[H:20][O+:21]=C(CCNCC)N.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCNCCC(=[O:21])N 10=20;20,21=21
CC[N:12]1C(=C(S[C:11]1=[C:10](C2=CC=C(C=C2)OC)O)CCO)C.C[C:22](=[O:23])[CH:21]=[CH2:20].CC[NH+](CC)CC.CCO.[Br-]>>CC[N+:12]1=[C:11](SC(=C1C)CCO)[C:10]([CH2:20][CH:21]=[C:22](C)[O-:23])(C2=CC=C(C=C2)OC)O.CC[NH+](CC)CC.CCO.[Br-] 10,11=10,20;12=11;22,23=23;20,21=21,22
CC1=[O+:21][CH:20]2C(O1)CCC[O:10]2.CO.[Cl-]>>CC(=[O:21])OC1CCC[O+:10]=[CH:20]1.CO.[Cl-] 10=20;20,21=21
CCOC(=O)[CH:20](C)[Br:21].C=C1CCCC2C1C[CH:10]=[C:11](C2)[N:12]3CCCC3>>CCOC(=O)[CH:20](C)[CH:10]1CC2C(CCCC2=C)C[C:11]1=[N+:12]3CCCC3.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:10][B-:11](CC)(CC)CC.[Li][O+:21]=[CH:20]CCC>>[H:10][CH:20](CCC)[O:21][Li].[B:11](CC)(CC)CC 10,11=10,20;20,21=21
CC1C(=C(C2C#CC=CC#CC3C14C2(O4)C5=C(N3C(=O)[O-])C=CC(=C5)O[Si:20](C)(C)C(C)C)OC)C(=O)OCOC.[F-:10].CCCC[N+](CCCC)(CCCC)CCCC.C[Si](C)(C)F.C=C>>CC1C(=C(C2C#CC=CC#CC3C14C2(O4)C5=C(N3C(=O)[O-])C=CC(=C5)O[Si-:20](C)(C)(C(C)C)[F:10])OC)C(=O)OCOC.CCCC[N+](CCCC)(CCCC)CCCC.C[Si](C)(C)F.C=C 10=20,
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)CBr)C(C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C)[C:21]1=[CH:22][CH:23]=[C:24](C=C1)CBr 10=20;20,21=21,22;22,23=23,24
[H:20][O+:21](C1CC(=O)N(C1)C)P(C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)N(C(=O)OCC)NC(=O)OCC.C1=CC(=CC=C1C(=O)[O-:10])[N+](=O)[O-]>>[H:20][O:10]C(=O)C1=CC=C(C=C1)[N+](=O)[O-].CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[O:21]C4CC(=O)N(C4)C 10=20;20,21=21
CCOC(=O)[N:12]1CC[CH:20]([CH:10]=[CH:11]1)[OH+:21][Sn-](Cl)(Cl)(Cl)Cl.C[Si](C)(C)CC=C>>CCOC(=O)[N+:12]1=[CH:11][CH:10]=[CH:20]CC1.[OH:21][Sn-](Cl)(Cl)(Cl)Cl.C[Si](C)(C)CC=C 10,11=10,20;20,21=21;12=11
CN1C(=CN2C=CC=C2C1=O)CCCN[C:20](=[O:21])C3=C(C=CC=C3)C(=O)N[NH2:10].NN.O.[Cl-].[K+]>>CN1C(=CN2C=CC=C2C1=O)CCCN[C:20]3(C4=C(C=CC=C4)C(=O)N[NH2+:10]3)[O-:21].NN.O.[Cl-].[K+] 10=20;20,21=21
CCCCCOCC1C(C[CH:20]([O:10]1)[N+:21]2=CC(=CC=C2)C)O>>CCCCCOCC1C(C[CH:20]=[O+:10]1)O.CC1=CC=C[N:21]=C1 10=20;20,21=21
[H:20][O:21]N1C2=C(C=CC=C2)N=N1.C[N:10](C)C>>[H:20][N+:10](C)(C)C.C1=CC2=C(C=C1)N(N=N2)[O-:21] 10=20;20,21=21
CC1=C(S[C:21](=[N+]1CC2=CC=CC=C2)[C:20](CCC(=O)COC(=O)C)(C3=CC=C(C=C3)F)[O-:10])CCO.CC[NH+](CC)CC.[Cl-]>>CC1=C(S[C-:21]=[N+]1CC2=CC=CC=C2)CCO.CC(=O)OCC(=O)CC[C:20](=[O:10])C1=CC=C(C=C1)F.CC[NH+](CC)CC.[Cl-] 10=20;20,21=21
CC1[CH2:20][O:21]1.C1=CC=C(C=C1)[S-:10].CCO.[Na+]>>CC([CH2:20][S:10]C1=CC=CC=C1)[O-:21].CCO.[Na+] 10=20;20,21=21
CC[O:10][CH:20](C)[OH2+:21]>>CC[O+:10]=[CH:20]C.[OH2:21] 10=20;20,21=21
